US09399640B2
Step 4. 6-Bromo-7-(2,4-difluorophenoxy)-2,5-dimethylpyrazolo[1,5-a]pyrimidine
A solution of 2,4-difluorophenol (0.156 mL, 0.960 mmol) in tetrahydrofuran (3.0 mL) was treated with sodium hydride (0.0242 g, 0.960 mmol) at 0° C. The resultant reaction mixture was warmed to RT and stirred at that temperature for 30 min. The reaction mixture was then cooled to 0° C., treated with 6-bromo-7-chloro-2,5-dimethylpyrazolo[1,5-a]pyrimidine (0.125 g, 0.480 mmol), warmed to RT and stirred at RT for 14 h. The reaction mixture was cooled to 0° C., quenched with saturated ammonium chloride solution, and diluted with ethyl acetate. Layers were separated and the organic layer was washed with water and brine, dried with sodium sulfate, filtered, and concentrated to give a crude residue. Purification by flash column chromatography (100% hexanes to 30% Et2O/hexanes) gave the desired product (162 mg, 95%) as a white solid. LCMS calculated for C14H11BrF2N3O (M+H)+: m/z=354.0, 356.0. found: 353.9, 356.0.

reactant | 2,4-difluorophenol | 0.960 mmol, 0.156 mL | FC1=C(C=CC(=C1)F)O | C6H4F2O
reactant | sodium hydride | 0.960 mmol, 0.0242 g | [H-].[Na+]
reactant | 6-bromo-7-chloro-2,5-dimethylpyrazolo[1,5-a]pyrimidine | 0.480 mmol, 0.125 g | BrC=1C(=NC=2N(C1Cl)N=C(C2)C)C | C8H7BrClN3
solvent | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
product | 6-Bromo-7-(2,4-difluorophenoxy)-2,5-dimethylpyrazolo[1,5-a]pyrimidine | 162 mg, 95% | BrC=1C(=NC=2N(C1OC1=C(C=C(C=C1)F)F)N=C(C2)C)C | C14H10BrF2N3O
